US05973153
reacting 5,7-dichloro-4-hydoxyquinoline with thionyl chloride in the presence of N,N-dimethylformamide or N,N-diethylformamide to obtain 4,5,7-trichloroquinoline,

reactant | 5,7-dichloro-4-hydoxyquinoline | ClC1=C2C(=CC=NC2=CC(=C1)Cl)O | C9H5Cl2NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-diethylformamide | C(C)N(C=O)CC | C5H11NO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4,5,7-trichloroquinoline | ClC1=CC=NC2=CC(=CC(=C12)Cl)Cl | C9H4Cl3N
